** sch_path: /home/coold69/Documents/msvsdspwm/Week 0/xschem/inverter.sch
**.subckt inverter vin vout vdd vss
*.ipin vin
*.opin vout
*.iopin vdd
*.iopin vss
XM2 vout vin vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=4.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM3 vout vin vdd VDD sky130_fd_pr__pfet_01v8 L=0.15 W=8.4 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
**.ends
.end
